US08633173B2
N-(3-Aminomethyl-pyridin-2-yl)-N-methyl-methanesulfonamide was prepared from N-(3-cyano-pyridin-2-yl)-N-methyl-methanesulfonamide (3.35 g, 15.8 mmol) (prepared as described in J. Heterocyclic Chemistry, 1979, 16, 1361-1363) via hydrogenation using a Paar apparatus with 10% palladium on carbon (50% Wet) (5:45:50, Palladium:carbon black:Water, 5.71 g, 2.68 mmol) and hydrogen (50 psi) in 7M ammonia in methanol (100 mL). The mixture was shaken on a Paar apparatus until adsorption of hydrogen ceased. The mixture was degassed, backflushed with nitrogen, filtered through a plug of diatomaceous earth and rinsed with dichloromethane. The filtrate was evaporated under reduced pressure. Product isolated as pale yellow oil (3.20, 93%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.37 (dd, J=4.6, 1.7 Hz, 1H), 7.92 (dd, J=7.7, 1.7 Hz, 1H), 7.32 (dd, J=7.7, 4.8 Hz, 1H), 4.04 (s, 2H), 3.26 (s, 3H), 3.08 (s, 3H). MS=216 (MH)+.

reactant | N-(3-cyano-pyridin-2-yl)-N-methyl-methanesulfonamide | 15.8 mmol, 3.35 g | C(#N)C=1C(=NC=CC1)N(S(=O)(=O)C)C | C8H9N3O2S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2.68 mmol, 5.71 g | [Pd] | Pd
solvent | ammonia | 7M | N | H3N
solvent | methanol | 100 mL | CO | CH4O
product | N-(3-Aminomethyl-pyridin-2-yl)-N-methyl-methanesulfonamide | NCC=1C(=NC=CC1)N(S(=O)(=O)C)C | C8H13N3O2S
